US06162818
1-t-Butoxycarbonyl-2,3-dihydro-7-methyl-4-nitroindole (2.169 g; 8.7 mmol) is dissolved in methanol (35 mL), treated with a catalytic amount of 10% palladium-on-carbon (210 mg) and placed under an atmosphere of hydrogen. The solution is allowed to stir overnight. The black suspension is filtered through Celite and the solvent is removed by rotary evaporation. The crude product is purified by silica gel flash column chromatography using 15% ethyl acetate/hexanes as eluent to afford 1.769 g of 1-t-butoxycarbonyl-4-amino-2,3-dihydro-7-methylindole as a white solid (94% yield).

reactant | 1-t-Butoxycarbonyl-2,3-dihydro-7-methyl-4-nitroindole | 8.7 mmol, 2.169 g | C(C)(C)(C)OC(=O)N1CCC2=C(C=CC(=C12)C)[N+](=O)[O-] | C14H18N2O4
solvent | methanol | 35 mL | CO | CH4O
catalyst | palladium-on-carbon | 210 mg | [Pd] | Pd
product | 1-t-butoxycarbonyl-4-amino-2,3-dihydro-7-methylindole | 1.769 g, 94% yield | C(C)(C)(C)OC(=O)N1CCC2=C(C=CC(=C12)C)N | C14H20N2O2
